US06169086A
1) Preparation of 1-(3-Cyano-5-fluorophenyl)-4-(2,2,2-trichloroethoxycarbonyl)piperazine
In 30 ml of dichloromethane was suspended 2.54 g of 1-(3-cyano-5-fluorophenyl)piperazine hydrochloride, and the suspension was cooled to 0° C. To the suspension were added 7.3 ml of triethylamine and 3 ml of 2,2,2-trichloroethyl chloroformate, followed by stirring at room temperature for 2 hours. The reaction mixture was washed with water and then with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was subjected to silica gel column chromatography using chloroform as a developing solvent. The fraction containing the desired compound was concentrated to give 4.79 g of the title compound.

reactant | 1-(3-cyano-5-fluorophenyl)piperazine hydrochloride | 2.54 g | Cl.C(#N)C=1C=C(C=C(C1)F)N1CCNCC1
reactant | triethylamine | 7.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trichloroethyl chloroformate | 3 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(3-Cyano-5-fluorophenyl)-4-(2,2,2-trichloroethoxycarbonyl)piperazine | 4.79 g | C(#N)C=1C=C(C=C(C1)F)N1CCN(CC1)C(=O)OCC(Cl)(Cl)Cl | C14H13Cl3FN3O2
